US06982348B2
N-((1RS,2SR)-2-hydroxy-2-(1-naphthalenyl)-1-((4-(trifluoromethyl)phenyl)methyl)ethyl)-4-(trifluoromethyl)benzamide
To a solution of (1RS,2SR)-1-hydroxy-1-(1-naphthalenyl)-3-(4-(trifluoromethyl)phenyl)-2-propylamine hydrochloride (150 mg, 0.39 mmol) in ethyl acetate (5 ml) were added 4-trifluoromethylbenzoyl chloride (87.5 ml, 0.59 mmol) and saturated aqueous sodium hydrogen carbonate (5 ml) and the mixture was stirred overnight at room temperature. The reaction solution was diluted with water (50 ml) and extracted with ethyl acetate (50 ml×2). The extract was washed with saturated brine, dried over anhydrous magnesium sulfate and evaporated under reduced pressure. The residue was recrystallized from ethyl acetate-hexane to give the title compound (178 mg, 88%).

reactant | (1RS,2SR)-1-hydroxy-1-(1-naphthalenyl)-3-(4-(trifluoromethyl)phenyl)-2-propylamine hydrochloride | 0.39 mmol, 150 mg | Cl.OC(C(CC1=CC=C(C=C1)C(F)(F)F)N)C1=CC=CC2=CC=CC=C12
reactant | 4-trifluoromethylbenzoyl chloride | 0.59 mmol, 87.5 ml | FC(C1=CC=C(C(=O)Cl)C=C1)(F)F | C8H4ClF3O
reactant | sodium hydrogen carbonate | 5 ml | C(O)([O-])=O.[Na+]
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 50 ml | O | H2O
product | N-((1RS,2SR)-2-hydroxy-2-(1-naphthalenyl)-1-((4-(trifluoromethyl)phenyl)methyl)ethyl)-4-(trifluoromethyl)benzamide | 178 mg, 88% | OC(C(CC1=CC=C(C=C1)C(F)(F)F)NC(C1=CC=C(C=C1)C(F)(F)F)=O)C1=CC=CC2=CC=CC=C12 | C28H21F6NO2
